US05631259
52.5 g (0.47 mol) of cytosine are reacted with 38.5 g (0.47 mol) of epoxycyclopentene at 0° C., by slow addition, in a mixture of in each case 220 ml of dry tetrahydrofuran and dimethylsulfoxide with 1 mol % of the palladium(0) catalyst prepared in situ as described above under an inert argon atmosphere. The reaction mixture is stirred at room temperature for 90 hours and then freed from the solvent and the residue is chromatographed over silica gel using methylene chloride/methanol 7/3. 71.8 g (79.2% of theory) of 1-[(1RS,4SR)-4-hydroxycyclopent-2-en-1-yl]cytosine of melting point 241°-242° C. are obtained. 1H-NMR (270 MHz, d6 -DMSO), δ[ppm]: 7.42 (d, 1H), 7.02 (s, 2H), 6.09 (m, 1H), 5.75 (m, 1H), 5.72 (d, 1H), 5.44 (m, 1H), 5.18 (d, 1H), 4.63 (m, 1H), 2.72 (m, 1H), 1.27 (m, 1H).

reactant | cytosine | 0.47 mol, 52.5 g | N1C(=O)N=C(N)C=C1 | C4H5N3O
reactant | epoxycyclopentene | 0.47 mol, 38.5 g | O1C2=C1CCC2 | C5H6O
reactant | tetrahydrofuran | 220 ml | O1CCCC1 | C4H8O
catalyst | palladium(0) | [Pd] | Pd
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
product | 1-[(1RS,4SR)-4-hydroxycyclopent-2-en-1-yl]cytosine | 71.8 g, 79.2% | OC1C=CC(C1)N1C(=O)N=C(N)C=C1 | C9H11N3O2
